US07834044B2
1-(1H-Imidazol-2-ylmethyl)-2,3-dihydro-1H-indole
To a solution of indoline (0.20 g, 1.68 mmol) in methanol (15 ml) were added sequentially imidazole-2-carboxaldehyde (0.24 g, 2.52 mmol), zinc chloride (0.92 g, 6.71 mmol) and sodium cyanoborohydride (0.32 g, 5.03 mmol). The reaction mixture was shaken at 50° C. for 16 hours, then triethylamine (0.5 ml) was added and the mixture shaken for a further 5 min. The resulting suspension was filtered and the filtrate was concentrated in vacuo. The residue was purified by chromatography on silica gel (eluant: methanol/dichloromethane gradient) to yield the title compound as an off-white solid (0.17 g, 52%); MS (ISP): 200.3 ([M+H]+).

reactant | indoline | 1.68 mmol, 0.20 g | N1CCC2=CC=CC=C12 | C8H9N
reactant | imidazole-2-carboxaldehyde | 2.52 mmol, 0.24 g | N1C(=NC=C1)C=O | C4H4N2O
reactant | sodium cyanoborohydride | 5.03 mmol, 0.32 g | C(#N)[BH3-].[Na+]
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 15 ml | CO | CH4O
catalyst | zinc chloride | 6.71 mmol, 0.92 g | [Cl-].[Zn+2].[Cl-]
product | 1-(1H-Imidazol-2-ylmethyl)-2,3-dihydro-1H-indole | 0.17 g, 52% | N1C(=NC=C1)CN1CCC2=CC=CC=C12 | C12H13N3
